US08530477B2
1-tert-Butylpiperazine (1.61 g, 11.4 mmol) is placed in 35 ml of toluene under nitrogen, 5-Bromo-2-fluoropyridine (2 g, 11.4 mmol), sodium t-butoxide (1.6 g, 17 mmol), tris(dibenzylideneacetone)dipalladium (0.52 g, 0.57 mmol), and S-Phos (0.93 g, 17 mmol) are then added. The reaction medium is heated at 80° C. for 18 h. After hydrolysis, and extraction with ethyl acetate, the organic phase is washed with water and then with a saturated aqueous sodium chloride solution. After drying over MgSO4, and concentrating to dryness, the crude product obtained is chromatographed on silica gel, elution being carried out with a gradient of methanol in dichloromethane ranging from 0% to 5%. 1.92 g of 1-tert-butyl-4-(6-fluoropyridin-3-yl)piperazine are obtained.

reactant | 1-tert-Butylpiperazine | 11.4 mmol, 1.61 g | C(C)(C)(C)N1CCNCC1 | C8H18N2
reactant | 5-Bromo-2-fluoropyridine | 11.4 mmol, 2 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | sodium t-butoxide | 17 mmol, 1.6 g | CC(C)([O-])C.[Na+]
reactant | S-Phos | 17 mmol, 0.93 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.57 mmol, 0.52 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butyl-4-(6-fluoropyridin-3-yl)piperazine | 1.92 g | C(C)(C)(C)N1CCN(CC1)C=1C=NC(=CC1)F | C13H20FN3
